US07368126B2
Bupivacaine Base Preparation
Bupivacaine hydrochloride (Sigma-Aldrich Corporation, St. Louis, Mo.) was dissolved in deionized (DI) water at a concentration of 40 mg/ml (saturation). A calculated amount of sodium hydroxide (in the form of 1 N solution) was added to the solution and the pH of the final mixture was adjusted to 10 to precipitate the Bupivacaine base. The precipitated product was filtered, and further washed with DI water at least three times. The precipitated product was dried at ca. 40° C. in vacuum for 24 hours.

reactant | Bupivacaine hydrochloride | CCCCN1CCCCC1C(=O)NC=2C(=CC=CC2C)C.Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | Bupivacaine | CCCCN1CCCCC1C(=O)NC=2C(=CC=CC2C)C | C18H28N2O
